US05883106
B. 4Cyano-4-(3-triisopropylsilylthiophenyl)-3,4,5,6-tetrahydro-2H-pyran
The titled compound was prepared according to the procedure described in example 29C for the preparation of (2SR,4RS)-4-cyano-2-methyl-4-(3-triisopropylsilylthiophenyl)-3,4,5,6-tetrahydro-2H-pyran using 4-cyano-4-(3-iodophenyl)-3,4,5,6-tetrahydro-2H-pyran in place of (2SR,4RS)-4-cyano-4-(3-iodophenyl)-2-methyl-3,4,5,6-tetrahydro-2H-pyran.

reactant | (2SR,4RS)-4-cyano-2-methyl-4-(3-triisopropylsilylthiophenyl)-3,4,5,6-tetrahydro-2H-pyran | C(#N)C1(CC(OCC1)C)C1=CC(=CC=C1)S[Si](C(C)C)(C(C)C)C(C)C | C22H35NOSSi
reactant | 4-cyano-4-(3-iodophenyl)-3,4,5,6-tetrahydro-2H-pyran | C(#N)C1(CCOCC1)C1=CC(=CC=C1)I | C12H12INO
product | 4Cyano-4-(3-triisopropylsilylthiophenyl)-3,4,5,6-tetrahydro-2H-pyran | C(#N)C1(CCOCC1)C1=CC(=CC=C1)S[Si](C(C)C)(C(C)C)C(C)C | C21H33NOSSi
